US07057046B2
A mixture of 3-acetamidoamino-3-carboethoxy-5-methoxy-3,4-dihydrocarbostyril (5.7 g) and 6 M aqueous hydrochloric acid (75 mL) was refluxed for 6 h. This mixture was evaporated to a solid which was triturated with acetonitrile. Filtration provided 3-amino-5-methoxy-3,4-dihydrocarbostyril hydrochloride (3.8 g, mp 301–302° C. with decomp.) as gray crystals. The free base, 3-amino-5-methoxy-3,4-dihydrocarbostyril, was prepared by ion exchange on an SCX column (United Chemical Technologies, CLEAN-UP Extraction Column, sorbent CUBCX1HL, Synthesis 1997, 553–558) by loading in methanol and eluting with methanol, followed by 2 M methanolic ammonia. The ammonia containing eluant was evaporated to provide 3-amino-5-methoxy-3,4-dihydrocarbostyril.

reactant | 3-acetamidoamino-3-carboethoxy-5-methoxy-3,4-dihydrocarbostyril | 5.7 g | C(C)(=O)NNC1(C(NC2=CC=CC(=C2C1)OC)=O)C(=O)OCC | C15H19N3O5
reactant | hydrochloric acid | 6 M, 75 mL | Cl | ClH
product | 3-amino-5-methoxy-3,4-dihydrocarbostyril hydrochloride | 3.8 g | Cl.NC1C(NC2=CC=CC(=C2C1)OC)=O | InChI=1S/C10H12N2O2.ClH/c1-14-9-4-2-3-8-6(9)5-7(11)10(13)12-8;/h2-4,7H,5,11H2,1H3,(H,12,13);1H
